US05273975
A mixture of 4-methyl-1H-benzimidazole (11.6 g, 0.088 mol) and di t-butyl dicarbonate (21.1 g, 0.097 mol) was heated at 80° C. in dioxane (200 mL) for 1 hour. The solvent was removed under reduced pressure and the residual oil (24.3 g) was chromatographed on silica gel using ethyl acetate:hexane as the eluant to give 18.7 g (92%) of t-butyl 4-methyl-1H-benzimidazole-1-carboxylate as an oil.

reactant | 4-methyl-1H-benzimidazole | 0.088 mol, 11.6 g | CC1=CC=CC=2NC=NC21 | C8H8N2
reactant | di t-butyl dicarbonate | 0.097 mol, 21.1 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dioxane | 200 mL | O1CCOCC1 | C4H8O2
product | t-butyl 4-methyl-1H-benzimidazole-1-carboxylate | 18.7 g, 92% | CC1=CC=CC=2N(C=NC21)C(=O)OC(C)(C)C | C13H16N2O2
